US03987042
28 g of 2-carboxymethyl-quinuclidine were esterified by treatment with a solution of anhydrous hydrogen chloride in absolute ethanol for 48 hours at room temperature. 25 g of 2-ethoxycarbonylmethyl-quinuclidine hydrochloride were obtained.

reactant | 2-carboxymethyl-quinuclidine | 28 g | C(=O)(O)CC1N2CCC(C1)CC2 | C9H15NO2
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 2-ethoxycarbonylmethyl-quinuclidine hydrochloride | 25 g | Cl.C(C)OC(=O)CC1N2CCC(C1)CC2 | InChI=1S/C11H19NO2.ClH/c1-2-14-11(13)8-10-7-9-3-5-12(10)6-4-9;/h9-10H,2-8H2,1H3;1H
